US09034866B2
Synthesis of (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(oxetan-3-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide
Prepared as described for (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(tetrahydro-2H-pyran-4-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide replacing oxan-4-amine hydrochloride with 3-methylaminooxetane hydrochloride. off-white solid (6.7 mg, 2%).

reactant | (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(tetrahydro-2H-pyran-4-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | O[C@@](C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC3CCOCC3)C1)(C)C1=NOC(=C1)C | C26H27N5O6
reactant | 3-methylaminooxetane hydrochloride | Cl.CNC1COC1
product | (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(oxetan-3-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | O[C@@](C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NCC3COC3)C1)(C)C1=NOC(=C1)C | C25H25N5O6
